US08802704B2
Step 2: 4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde
(4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol (5.89 g, 14.4 mmol) was dissolved in dioxane (100 mL) and manganese dioxide (10 g, 116.0 mmol) was added. The mixture was heated at 70° C. overnight and then the solvent was removed in vacuo. The residue was triturated with a mixture of petrol/diethyl ether to give the title compound as a white solid (5.72 g, 97%). 1H NMR (CDCl3, 400 MHz) δ 10.13 (1H, s), 8.64 (1H, s), 8.43-8.36 (3H, m), 8.06 (2H, d, J=8.0 Hz), 7.49 (1H, d, J=8.0 Hz), 7.38-7.21 (3H, m), 7.15 (1H, d, J=7.6 Hz), 2.07 (3H, s). LC/MS (Method A): 409 (M+H)+. HPLC (Method G) Rt 4.89 min (Purity: 95.7%).

reactant | (4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol | 14.4 mmol, 5.89 g | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)CO)C(F)(F)F | C23H17F3N2O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 116.0 mmol, 10 g | [O-2].[O-2].[Mn+4]
product | 4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 5.72 g, 97% | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1)C(F)(F)F | C23H15F3N2O2
